US05019597
Preparation of N-(6,6-dimethylbicyclo[3.1.1]hept-2-yl)-2-propenamide
Following the procedure of Example 3, a solution of acryloyl chloride (4.05 ml, 0.05 mole) in ethyl ether (50 ml) was added dropwise to a cold 5° C. mixture of triethylamine (15.3 ml, 0.11 mole) and norpinylamine (6.96 ;g, 0.05 mole) in ethyl ether (400 ml). The reaction was allowed to warm to room temperature and stirred for 72 hours. The light tan solid was filtered and washed well with ethyl ether. The solvent and triethylamine were removed, leaving the title product as an oily solid. The sturcture was confirmed by NMR. Analysis calc. for C12H19NO(193.28): Calc.: C, 74.57; H, 9,91; N, 7.24. Found: C, 74.28; H, 9.65; N, 7.15.

reactant | acryloyl chloride | 0.05 mole, 4.05 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | triethylamine | 0.11 mole, 15.3 ml | C(C)N(CC)CC | C6H15N
reactant | norpinylamine | 0.05 mole | C12(CCCC(C1)C2)N | C7H13N
reactant | ethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | ethyl ether | 400 ml | C(C)OCC | C4H10O
product | N-(6,6-dimethylbicyclo[3.1.1]hept-2-yl)-2-propenamide | CC1(C2CCC(C1C2)NC(C=C)=O)C | C12H19NO
